US07494964B2
Double-Quaternisation of 4,4″-bis-(4butyl-piperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-on
0.124 ml (1.99 mmol) of methyliodide are added dropwise to a suspension of 568 mg (0.994 mmol) 4,4″-bis-(4-methy-piperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-on in 18 ml acetonitril. The solution is stirred for 16 h at room temperature. The obtained whitish product (C33H49I2N7O) is filtered off and washed (with acetonitrile).

reactant | methyliodide | 1.99 mmol, 0.124 ml | CI | CH3I
reactant | 4,4″-bis-(4-methy-piperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-on | 0.994 mmol, 568 mg | CN1CCN(CC1)C1=CC(=NC=C1)C=1NC(=CC(C1)=O)C1=NC=CC(=C1)N1CCN(CC1)C | C25H31N7O
solvent | acetonitril | 18 ml | C(C)#N | C2H3N
product | 4,4″-bis-(4butyl-piperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-on | C(CCC)N1CCN(CC1)C1=CC(=NC=C1)C=1NC(=CC(C1)=O)C1=NC=CC(=C1)N1CCN(CC1)CCCC | C31H43N7O
